US07884124B2
4-(2-Trimethylsilanyl-ethoxymethyl)-4H-thieno[3,2-b]pyrrole-5-carboxylic acid (1.9 g, 6.4 mmol) was dissolved in anhydrous THF (250 mL) and cooled to −78° C. n-BuLi (1.6 M in hexanes, 12 mL, 19.2 mmol, 3 equiv) was added over 5 min and stirred at −78° C. for 60 min. A solution of NFSI (3.1 g, 9.6 mmol, 1.5 equiv) in 15 mL anhydrous THF was added over 15 min and the reaction was stirred at −78° C. for 5 h and then allowed to warm to rt overnight. The reaction was cooled in an ice bath, quenched with 6N HCl, and then extracted with EtOAc and evaporated in vacuo to give 5.5 g of dark residue. The residue was chromatographed over silica gel (DCM in EtOAc) to give a more pure residue. This residue was further purified via prep reverse phase HPLC (RP-HPLC) to give 360 mg of the 2-fluoro isomer (2-fluoro-4-((2-(trimethylsilyl)ethoxy)methyl)-4H-thieno[3,2-b]pyrrole-5-carboxylic acid) and a separate mixture of starting material and 6-fluoro isomer (6-fluoro-4-((2-(trimethylsilyl)ethoxy)methyl)-4H-thieno[3,2-b]pyrrole-5-carboxylic acid). This latter mixture was converted to the corresponding methyl ester via TMSCH2N2. The mixture of esters was chromatographed over silica gel (EtOAc in heptane, 5%-20%) to give methyl 6-fluoro-4-((2-(trimethylsilyl)ethoxy)methyl)-4H-thieno[3,2-b]pyrrole-5-carboxylate (16 mg, 0.0485 mmol, 0.8% yield). 1H NMR (400 MHz, (CD3)2CO) δ ppm −0.08 (s, 9H) 0.80-0.87 (m, 2H) 3.49-3.57 (m, 2H) 3.87 (s, 3H) 5.88 (s, 2H) 7.29 (dd, J=5.32, 2.20 Hz, 1H) 7.66 (d, J=5.32 Hz, 1H).

reactant | 6-fluoro-4-((2-(trimethylsilyl)ethoxy)methyl)-4H-thieno[3,2-b]pyrrole-5-carboxylic acid | FC=1C2=C(N(C1C(=O)O)COCC[Si](C)(C)C)C=CS2 | C13H18FNO3SSi
reactant | TMSCH2N2 | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
product | methyl 6-fluoro-4-((2-(trimethylsilyl)ethoxy)methyl)-4H-thieno[3,2-b]pyrrole-5-carboxylate | 0.0485 mmol, 16 mg, 0.8% yield | FC=1C2=C(N(C1C(=O)OC)COCC[Si](C)(C)C)C=CS2 | C14H20FNO3SSi
